US06469188B1
3-(2-adamantyl)-6,6-dimethylfulvene.
To 2-adamantylcyclopentadiene (6.06 g, 30.3 mmol) was added 50 mL methanol, 50 mL ethanol, 20 mL tetrahydrofuran, 36 mL acetone (0.49 mol) and 0.5 mL pyrrolidine (0.006 mol). After stirring for 48 hours, 5 mL of acetic acid were injected, followed by 200 mL H2O and 200 mL diethyl ether. The organic layer was isolated and the aqueous layer extracted with diethyl ether (3×40 mL). The combined organic layers were extracted with H2O (3×25 mL) and with 10% aqueous NaOH (3×25 mL), dried over MgSO4, filtered and rotavapped. The obtained yellow solid was further purified by overnight Soxhlet extraction by 150 mL methanol. The precipitate in the filtrate was isolated by filtration at 0° C., and in vacuo drying: 4.54 g (62.5%) of 3-(2-adamantyl)-6,6-dimethylfulvene, as a yellow powder. Elemental analysis calculated for C18H24: C, 89.94; H, 10.06. Found: C, 82.23, 82.23; H, 8.78, 8.82.

reactant | 2-adamantylcyclopentadiene | 30.3 mmol, 6.06 g | C12C(C3CC(CC(C1)C3)C2)C2=CC=CC2 | C15H20
reactant | methanol | 50 mL | CO | CH4O
reactant | acetone | 0.49 mol, 36 mL | CC(=O)C | C3H6O
reactant | pyrrolidine | 0.006 mol, 0.5 mL | N1CCCC1 | C4H9N
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | H2O | 200 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(2-adamantyl)-6,6-dimethylfulvene | C12C(C3CC(CC(C1)C3)C2)C=2C=CC(C2)=C(C)C | C18H24
